US08957217B2
2-(1H-imidazol-1-yl)anisole
To a degassed DMSO (20 mL) solution of imidazole (1.0 g, 15 mmol) was added 2-bromoanisole (1.25 mL, 10 mmol), KOH (1.12 g, 20 mmol) and Cu2O (280 mg, 2 mmol) under nitrogen. The resulting mixture was stirred at 140° C. for 24 hrs under N2. After cooling to room temperature, the mixture was poured into ethylacetate (EA) (50 mL) and filtered. The filtrate was washed with water (50 mL×3) and dried over anhydrous magnesium sulfate. After rotary evaporation, the crude oil was purified via column chromatography on silica gel with eluent of EA/MeOH (9/1, v/v), affording a light yellow liquid (50%). 1H-NMR (400 MHz, CDCl3) δ(ppm) 7.79 (s, 1H), 7.36 (t, J=7.8 Hz, 1H), 7.28 (d, J=7.8 Hz, 1H), 7.21 (s, 1H), 7.17 (s, 1H), 7.05 (m, 2H), 3.85 (s, 3H).

reactant | DMSO | 20 mL | CS(=O)C | C2H6OS
reactant | imidazole | 15 mmol, 1.0 g | N1C=NC=C1 | C3H4N2
reactant | 2-bromoanisole | 10 mmol, 1.25 mL | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | KOH | 20 mmol, 1.12 g | [OH-].[K+]
solvent | ethylacetate | 50 mL | C(C)OC(C)=O | C4H8O2
product | 2-(1H-imidazol-1-yl)anisole | 50% | N1(C=NC=C1)C1=C(C=CC=C1)OC | C10H10N2O
